US05239083
4-{2-[3-[1-(4,4'-dimethylbenzhydryl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid (Compound 54)
0.50 g of compound 54 was obtained in a similar manner to those described in the Examples 1 and 2 using 1.96 g of ethyl 4-(2-aminophenoxy)butyrate and 1.74 g of 3-[1-(4,4'-dimethylbenzhydryl)indol-5-yl]isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 1.96 g | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-(4,4'-dimethylbenzhydryl)indol-5-yl]isocrotonic acid | 1.74 g | CC1=CC=C(C(C2=CC=C(C=C2)C)N2C=CC3=CC(=CC=C23)/C(=C/C(=O)O)/C)C=C1 | C27H25NO2
product | 4-{2-[3-[1-(4,4'-dimethylbenzhydryl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid | CC1=CC=C(C(C2=CC=C(C=C2)C)N2C=CC3=CC(=CC=C23)/C(=C/C(=O)NC2=C(OCCCC(=O)O)C=CC=C2)/C)C=C1 | C37H36N2O4
